### ISSUE TITLE
'import all' sometimes still requires @[expose] when using grind

### ISSUE THREAD

**Issue by cmlsharp** [leanprover/lean4#11948]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description
Sometimes `@[expose]` is required even when using `import all` to import a module. Even more strangely, this behavior can be affected by function declaration order and whether you also `public import` that same module.

Consider the following example

`Test/Foo.lean`

```lean
module

public def increment? (i : Nat) (sz: Nat) : Option Nat :=
  if _ : i < sz - 1 then some (i + 1) else none

--@[expose]
public def iterate (a : Array Nat) (i : Nat) : Array Nat :=
  match _ : increment? i a.size with
  | none => a
  | some j =>
    have h: i < a.size := by simp_all[increment?]; omega
    iterate (a.set i a[i]) j
termination_by a.size - i
decreasing_by
  simp_all [increment?]
  omega
```

`Test/Bar.lean`
```lean
module
import all Test.Foo
public import Test.Foo

theorem iterate_does_nothing (a :Array Nat) (i : Nat) :
    iterate a i = a := by
  induction a, i using iterate.induct with grind [iterate]
```

With the `@[expose]` annotation, this will compile. Without it, I get the following error message:

```
▼ 7:44-7:58: error:
invalid pattern(s) for `iterate.match_1.congr_eq_2`
  [iterate.match_1✝ #5 #4 #3 #2]
the following theorem parameters cannot be instantiated:
  j : Nat
  heq_1 : x✝ = some j

▼ 7:44-7:58: error:
invalid pattern(s) for `iterate.match_1.congr_eq_2`
  [iterate.match_1✝ #5 #4 #3 #2]
the following theorem parameters cannot be instantiated:
  j : Nat
  heq_1 : x✝ = some j
```

This is already unexpected behavior, but things get even a little stranger.

Consider the following example where we have two copies of `iterate`, one tagged with `@[expose]` one not tagged.

`Test/Foo.lean`
```lean
module

public def increment? (i : Nat) (sz: Nat) : Option Nat :=
  if _ : i < sz - 1 then some (i + 1) else none

public def iterate (a : Array Nat) (i : Nat) : Array Nat :=
  match _ : increment? i a.size with
  | none => a
  | some j =>
    have h: i < a.size := by simp_all[increment?]; omega
    iterate (a.set i a[i]) j
termination_by a.size - i
decreasing_by
  simp_all [increment?]
  omega

@[expose]
public def iterate_expose (a : Array Nat) (i : Nat) : Array Nat :=
  match _ : increment? i a.size with
  | none => a
  | some j =>
    have h: i < a.size := by simp_all[increment?]; omega
    iterate_expose (a.set i a[i]) j
termination_by a.size - i
decreasing_by
  simp_all [increment?]
  omega
```
And the corresponding theorems: 

`Test/Bar.lean`
```lean
module
import all Test.Foo
public import Test.Foo

theorem iterate_does_nothing (a :Array Nat) (i : Nat) :
    iterate a i = a := by
  induction a, i using iterate.induct with grind [iterate]

theorem iterate_expose_does_nothing (a :Array Nat) (i : Nat) :
    iterate_expose a i = a := by
  induction a, i using iterate_expose.induct with grind [iterate_expose]
```

As written, `iterate_does_nothing` will fail with the aforementioned error message, while `iterate_expose_does_nothing` will succeed.

However:
* If `public import Test.Foo` is removed, _both_ versions will fail. The error message on the exposed version is a more standard `grind` failure message. Attempting to `unfold` `iterate_expose` yields `⊢ iterate_expose._unary ⟨a, i⟩ = a`.
* Even more bizarrely, if you keep `public import Test.Foo` and  swap the declaration order of `iterate` and `iterate_expose` in `Test/Foo.lean`, both theorems succeed.
* Swapping the definitions and removing `public import Test.Foo` causes `iterate_does_nothing` to succeed while `iterate_expose_does_nothing` does not.

### Context
This came up in my PR to add verification to the BinaryHeap implementation in Batteries. leanprover-community/batteries#1602. 

### Steps to Reproduce

See above.

**Expected behavior:**  `import all` should not require @[expose] annotations to work, removing `public import` should not alter whether definitions can be unfolded, declaration order of independent functions should not matter.

**Actual behavior:** `@[expose]` annotations are required to make grind prove a theorem even when using `import all`. Removing `public import` while having an `@[expose]` annotation, makes the proof break. Swapping the declaration order of two independent functions makes everything work for some reason.

### Versions

```
Lean 4.28.0-nightly-2026-01-08
Target: x86_64-unknown-linux-gnu
```

**Comment by nomeata** [comment]
The two declarations will share a matcher, maybe the congr eq generation for that matcher depends on which one came first.
